US06303650B1
N-Trifluoroacetyl-(R)-1-aminoindan
To a cooled (0-5° C.) solution of trifluoroacetic anhydride (194.6 g, 0.926 mol) in toluene (680 ml) was added dropwise a solution of (R)-1-aminoindan (base) (113.3 g 0.85 mol) in toluene (50 ml) and stirred under ice-cooling for 3½ hours. A solution of KOH (67.25 g, 1.2 mol) in water (1000 ml) was then added, under cooling. The reaction mixture was stirred for further 2 hours at room temperature and filtered. The solid was collected by filtration, washed with water (680 ml) and dried in vacuo at 60° C. to give 152 g (78%) of a white solid. mp:153-154° C. The solution was evaporated in vacuum and the crystals were filtered and washed with water. The solid was dried in vacuo at 60° C. The second crop (25 g) was crystallized from a mixture of hexane and ethyl acetate to give 18 g (9%) of a white solid, mp:153-154° C. The total yield was 170 g (87%).

reactant | trifluoroacetic anhydride | 0.926 mol, 194.6 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | (R)-1-aminoindan | 0.85 mol, 113.3 g | N[C@@H]1CCC2=CC=CC=C12 | C9H11N
reactant | KOH | 1.2 mol, 67.25 g | [OH-].[K+]
solvent | toluene | 680 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 1000 ml | O | H2O
product | N-Trifluoroacetyl-(R)-1-aminoindan | 152 g, 78% | FC(C(=O)N[C@@H]1CCC2=CC=CC=C12)(F)F | C11H10F3NO
